US04818761
(b) Preparation of 1-(3-fluorophenyl)-2-chloromethylbenzimidazole
A mixture of N-(3-fluorophenyl)-o-phenylenediamine (0.8 g, 4 mmol) prepared in the preceding step (a), polyphosphoric ester (2.7 g) and monochloroacetic acid (0.4 g, 4.2 mmol) was heated for 1 hour at 130° C. and water was added to the reaction mixture to decompose an excess of polyphosphoric ester, then neutralized with sodium carbonate and the occurred oily substance was extracted with chloroform and the extract was washed, dried and concentrated in vacuo.

reactant | N-(3-fluorophenyl)-o-phenylenediamine | 4 mmol, 0.8 g | FC=1C=C(C=CC1)NC1=C(C=CC=C1)N | C12H11FN2
reactant | monochloroacetic acid | 4.2 mmol, 0.4 g | ClCC(=O)O | C2H3ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 1-(3-fluorophenyl)-2-chloromethylbenzimidazole | FC=1C=C(C=CC1)N1C(=NC2=C1C=CC=C2)CCl | C14H10ClFN2
